US20010041802A1
A solution of formic acid (24.3 g, 98%, 528 mmol) in Ac2O (43.94 g, 430 mmol) was heated to 55° C. for 2 hours, cooled to room temperature. The mixture was diluted with toluene (25 mL) followed by the addition of of 3-bromoaniline (28 g, 163 mmol) in toluene (40 mL). The solution was stirred cold for 30 minutes after which the solvents were removed under vacuo and the residue crystallized from hexane to give N-(3-bromophenyl)formamide (32.79 g),. The material was added in portions to 1M. BH3 in THF (450 mL) at 0° C., heated to refluxing for 3 hours and cooled to ambient temperature. The solvents were removed under reduced pressure, the residue was treated with aqueous hydrochloric acid (1M, 200 mL) for for ½ hour, the pH was adjusted to 12 with the addition of sodium hydroxide (1M). The solution was extracted with diethyl ether (3×75 mL), the combined ether layers dried (MgSO4, filtered and concentrated under reduced pressure to give the titled compound (29.48).

reactant | formic acid | 528 mmol, 24.3 g | C(=O)O | CH2O2
reactant | Ac2O | 430 mmol, 43.94 g | CC(=O)OC(=O)C | C4H6O3
reactant | 3-bromoaniline | 163 mmol, 28 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-bromophenyl)formamide | 32.79 g | BrC=1C=C(C=CC1)NC=O | C7H6BrNO
